US06054470
To a solution of 1-(4-methoxybenzyl)-4-hydroxyethyl-3-nitro-2-pyridone (0.35 g, 1.2 mmol) in pyridine (4 mL) was added benzenesulfonyl chloride (0.2 mL). After 4 days, the mixture was diluted with ethyl acetate, and washed with dilute hydrochloric acid. The aqueous phase was basified to pH 13 with aqueous KOH, and after 30 minutes was extracted with ethyl acetate. The organic phase was dried, filtered and evaporated to give 1-(4-methoxybenzyl)-4-vinyl-3-nitro-2-pyridone (0.29 g, 1.0 mmol, 83%).

reactant | 1-(4-methoxybenzyl)-4-hydroxyethyl-3-nitro-2-pyridone | 1.2 mmol, 0.35 g | COC1=CC=C(CN2C(C(=C(C=C2)CCO)[N+](=O)[O-])=O)C=C1 | C15H16N2O5
reactant | benzenesulfonyl chloride | 0.2 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-methoxybenzyl)-4-vinyl-3-nitro-2-pyridone | 1.0 mmol, 0.29 g, 83% | COC1=CC=C(CN2C(C(=C(C=C2)C=C)[N+](=O)[O-])=O)C=C1 | C15H14N2O4
